US09062015B2
FS701: 6′-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-4-ylamine
The preparation is carried out analogously to FS 102 starting from (6′-bromo-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-4-yl)carbamic acid tert-butyl ester (preparation analogous to WO2005/26149) and 5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-ylboronic acid. The protecting group is subsequently cleaved off in a corresponding manner to FS201. The product is in the form of the hydrochloride.

reactant | (6′-bromo-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-4-yl)carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)C1=NC(=CC=C1)Br)=O | C15H22BrN3O2
reactant | 5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-ylboronic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)B(O)O)C | C14H21BO2
reactant | hydrochloride | Cl | ClH
product | 6′-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-4-ylamine | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCC(CC1)N)C | C24H33N3
